US06576643B2
c) Ethyl (±)-10,11-dihydro-3-[3-(pyrimidin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate
A mixture of ethyl (±)-10,11-dihydro-3-(3-amino-1-propyloxy)-5H-dibenzo[a,d]cycloheptene-10-acetate (0.4 g, 1 mmole), sodium bicarbonate (0.5 g, 6 mmole), 2-bromopyrimidine (0.34 g, 2 mmole) and ethanol (10 mL) was heated at reflux under argon for 18 hr. The solution was then decanted and concentrated. The residue was purified by chromatography on silica gel (0.2-2% MeOH/CH2Cl2) to give the title compound (0.17 g, 34%) as a pale yellow oil: MS (ES) 432.3 (M+H)+.

reactant | ethyl (±)-10,11-dihydro-3-(3-amino-1-propyloxy)-5H-dibenzo[a,d]cycloheptene-10-acetate | 1 mmole, 0.4 g | NCCCOC=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C22H27NO3
reactant | sodium bicarbonate | 6 mmole, 0.5 g | C([O-])(O)=O.[Na+]
reactant | 2-bromopyrimidine | 2 mmole, 0.34 g | BrC1=NC=CC=N1 | C4H3BrN2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | Ethyl (±)-10,11-dihydro-3-[3-(pyrimidin-2-ylamino)-1-propyloxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | 0.17 g, 34% | N1=C(N=CC=C1)NCCCOC=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C26H29N3O3
